US08067445B2
Step 3: 2-[4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 2, using the following starting materials: 2-(3-Bromo-4-methoxy-phenyl)-propionic acid ethyl ester and bis(pinacolato)diboron.

reactant | 2-(3-Bromo-4-methoxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC(=C(C=C1)OC)Br)=O | C12H15BrO3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-[4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)C1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C18H27BO5
